US08080552B2
1-(4-tert-Butyl-phenyl)-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
A solution of 154 mg (0.880 mmol) 4-t-butyl-phenyl isocyanate in 3 ml THF was given at 0° C. to a solution of 229 mg (0.880 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 5 ml THF within 10 min. After stirring overnight the reaction mixture was evaporated and the residue purified by chromatography on silica gel (dichloromethane/methanol 97:3). The obtained material was washed with dichloromethane and the precipitate was isolated by filtration and dried. Yield: 80 mg (21%) of the title compound.

reactant | 4-t-butyl-phenyl isocyanate | 0.880 mmol, 154 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 0.880 mmol, 229 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-tert-Butyl-phenyl)-3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO | C24H29N5O3
